US07772244B2
(±)-2-Hydroxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)propanoic acid
A Parr bottle was charged with 1-methoxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxoprop-2-en-2-yl benzoate (1.0 g, 2.14 mmol), methanol (15 mL), and palladium (10% on charcoal, 100 mg). The Parr shaker was pressurized to 60 psi of hydrogen and shaken for 6 h. The reaction was filtered through celite and concentrated. The resulting residue was dissolved in tetrahydrofuran (8 mL) and methanol (8 mL) and cooled to 0° C. To this was added a solution of lithium hydroxide monohydrate (358 mg, 8.54 mmol) in water (8 mL). The reaction was stirred at 0° C. for 1 h, then at room temperature for 2 h. The reaction was concentrated, dissovled in water, cooled to 0° C., and acidified with 1M hydrochloric acid. The resulting mixture was extracted with ethyl acetate (2×). The organics were washed with a minimum of brine, dried over magnesium sulfate, and concentrated. Column chromatography (5% to 10% methanol/dichloromethane) gave 340 mg (45%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) 8-0.04 (s, 9H), 0.93 (m, 2H), 2.53 (s, 3H), 2.92 (m, 1H), 3.19 (m, 1H), 3.61 (m, 2H), 4.46 (bs, 1H), 5.68 (s, 2H), 6.93 (s, 1H), 7.31 (bs, 1H), 7.94 (bs, 1H). Mass spec.: 351.36 (MH)+.

reactant | 1-methoxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxoprop-2-en-2-yl benzoate | 2.14 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)OC(C(=O)OC)=CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C25H30N2O5Si
reactant | methanol | 15 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
reactant | lithium hydroxide monohydrate | 8.54 mmol, 358 mg | O.[OH-].[Li+]
solvent | water | 8 mL | O | H2O
catalyst | palladium | 100 mg | [Pd] | Pd
product | (±)-2-Hydroxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)propanoic acid | OC(C(=O)O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C17H26N2O4Si
